US06455507B1
2-Bromo-5-chloro-6-methyl-1-beta-D-ribopyranosyl-1H-benzimidazole
2-Bromo-5-chloro-6-methyl-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole (0.097 g ) was deprotected as outlined in General Procedure V by being dissolved in 5 ml dioxane and the resultant solution cooled in an ice bath between 0 and 5° C. To this solution was added all at once, 0.78 ml (0.78 mmol) of 1M aq. LiOH. The mixture was removed from the ice bath and allowed to stir at ambient temperature for 0.5 h. The mixture was diluted with 50 ml of pH 7 phosphate buffer and extracted with ethyl acetate. The ethyl acetate layer was dried over magnesium sulfate (anhyd.), filtered and solvents evaporated. The residue was triturated in dichloromethane and 0.028 g (0.074 mmol) of 2-bromo-5,6-dichloro-1-beta-D-ribopyranosyl-1H-benzimidazole was collected by vacuum filtration. The product was dried in a vacuum oven at 50° C. overnight; m.p. 150° C. (foams); MS (AP+): m/z (rel. intensity) 400 (1.0, M+23 (Na)); 1H NMR (DMSO-d6) δ7.67 (s,1H), 7.65 (s, 1H), 5.62-5.60 (d, J=8.9 Hz), 5.13 (bs, 2H), 4.88-4.87 (m, 1H), 4.13 (bs, 1H), 4.00 (bs, 2H), 3.93 (m, 1H), 2.40 (s, 3H).

reactant | 2-Bromo-5-chloro-6-methyl-(2,3,4-tri-O-acetyl-beta-D-ribopyranosyl)-1H-benzimidazole | 0.097 g | BrC1=NC2=C(N1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](OC(C)=O)CO1)C=C(C(=C2)Cl)C | C19H20BrClN2O7
reactant | LiOH | 0.78 mmol, 1M, 0.78 ml | [Li+].[OH-]
reactant | 2-bromo-5,6-dichloro-1-beta-D-ribopyranosyl-1H-benzimidazole | 0.074 mmol, 0.028 g | BrC1=NC2=C(N1[C@H]1[C@H](O)[C@H](O)[C@H](O)CO1)C=C(C(=C2)Cl)Cl | C12H11BrCl2N2O4
solvent | dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 2-Bromo-5-chloro-6-methyl-1-beta-D-ribopyranosyl-1H-benzimidazole | BrC1=NC2=C(N1[C@H]1[C@H](O)[C@H](O)[C@H](O)CO1)C=C(C(=C2)Cl)C | C13H14BrClN2O4
